US07411072B2
N-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyridin-4-yl]-methanesulfonamide
Mix 2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyridin-4-ylamine (176 mg, 0.590 mmol), triethylamine (600 μL, 4.13 mmol), N,N-dimethylaminopyridine (7 mg, 0.059 mmol), and methanesulfonyl chloride (137 μL, 1.769 mmol) in CH2Cl2 (10 mL). Stir at room temperature for 3 h and dilute with H2O (15 mL). Extract into CH2Cl2, dry (MgSO4) and concentrate organics. Dissolve crude product in THF (10 mL), add 1.0M tetrabutylammonium fluoride (0.89 mL), and heat to reflux for 4 h. Cool to room temperature and dilute with H2O. Extract into ethyl acetate, dry (MgSO4) and concentrate organics. Chromatograph on silica gel (10 g), eluting with 80% →90% ethyl acetate/hexanes to afford 150 mg (68%) of the title compound as a yellow foam. MS (ES) 377 (M+H), 375 (M−H); BPLC shows 96% purity.

reactant | 2-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyridin-4-ylamine | 0.590 mmol, 176 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=NC=CC(=C3)N | C21H18N2
reactant | triethylamine | 4.13 mmol, 600 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.769 mmol, 137 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 15 mL | O | H2O
product | N-[2-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-pyridin-4-yl]-methanesulfonamide | 150 mg, 68% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=NC=CC(=C3)NS(=O)(=O)C | C22H20N2O2S
